* C:\projects\lightning\kicad\stmsplat1\STM-SPLAT1\ltspice\lightningfilter.asc
V1 N007 0 SINE(-3 +3 30nS 1nS 1nS 100nS 200nS) AC 1 0 Rser=0
L2 N004 N008 1.5µ
C1 N008 0 560p
C2 N004 0 240p
R6 N001 N004 100
V2 N001 0 3.3 Rser=0
L1 N006 N008 620n
R8 N006 N005 50
R9 N006 0 100
R16 N001 N006 100
D3 N006 N001 BAT54
D2 0 N006 BAT54
XU2 N003 N002 N002 N001 0 NC_01 LTC6261
R1 N001 N003 4K7
R3 N003 0 4K7
XU1 OUT N002 N004 0 N001 0 0 N001 LTC6910-2
C3 N005 N007 47n
R4 N004 0 100
.model D D
.lib C:\Users\bob\Documents\LTspiceXVII\lib\cmp\standard.dio
;tran 0 2e-6 0 1e-9
.ac dec 100 1 10e6
;tran 0 5e-6 0 1e-9
.lib LTC1.LIB
.lib LTC6.lib
.backanno
.end
